US06288061B1
Ethyl 3-(4-chlorophenyl)-2-hydroxyimino-3-oxopropionate and 4-(1-pyrrolidinyl)benzylamine are reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-chlorophenyl)-2-(4-(1-pyrrolidinyl)phenyl)imidazole-4-carboxylate. Ethyl 5-(4-chlorophenyl)-2-(4-(1-pyrrolidinyl)-phenyl)imidazole-4-carboxylate is reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-chlorophenyl)-2-(4-(1-pyrrolidinyl)phenyl)imidazole-4-carboxylic acid. 5-(4-Chlorophenyl)-2-(4-(1-pyrrolidinyl)phenyl)imidazole-4-carboxylic acid is reacted and treated in the same manner as in Example 1 to give 5-(4-chlorophenyl)-2-(4-(1-pyrrolidinyl)phenyl)-N-(2-thiazolyl)imidazole-4-carboxamide.

reactant | Ethyl 3-(4-chlorophenyl)-2-hydroxyimino-3-oxopropionate | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=NO)=O | C11H10ClNO4
reactant | 4-(1-pyrrolidinyl)benzylamine | N1(CCCC1)C1=CC=C(CN)C=C1 | C11H16N2
product | ethyl 5-(4-chlorophenyl)-2-(4-(1-pyrrolidinyl)phenyl)imidazole-4-carboxylate | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)N1CCCC1)C(=O)OCC | C22H22ClN3O2
